US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (474 mg) was coupled to 3,4-difluorophenylboronic acid to provide 3-(3-chloropropyl)-1-(3,4-difluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (92 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 474 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | 3,4-difluorophenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 3-(3-chloropropyl)-1-(3,4-difluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 92 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=C(C=C2)F)F)(=O)=O | C16H15ClF2N2O2S
